US08404709B2
4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-ethylbenzonitrile
1 g (4.14 mmol) of 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-ethylbenzonitrile and 0.45 g (4.14 mmol) of 4-aminopyridin-2(1H)-one [Scats, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] are dissolved in 20 ml of isopropanol and stirred at the reflux temperature under argon for 4 days. The mixture is then concentrated and the residue is purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol 10:1). 277 mg (20% of theory) of the title compound are obtained as a pale yellow solid.

reactant | 4-(2-acetyl-3-oxobut-1-en-1-yl)-3-ethylbenzonitrile | 4.14 mmol, 1 g | C(C)(=O)C(=CC1=C(C=C(C#N)C=C1)CC)C(C)=O | C15H15NO2
reactant | 4-aminopyridin-2(1H)-one | 4.14 mmol, 0.45 g | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-ethylbenzonitrile | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C#N)C=C1)CC)=O)C | C20H19N3O2
